US04602027
Ethyl chlorocarbonate (2.0 ml) was added dropwise to a mixture of cinnamic acid (2.96 g), dichloromethane (60 ml) and triethylamine (2.8 ml) under cooling with ice-sodium chloride and stirring, and the whole mixture was stirred for 10 minutes. L-Aspartic acid β-methyl ester hydrochloride (3.67 g) was added and triethylamine (5.6 ml) was further added dropwise. The resulting mixture was stirred at room temperature for 40 minutes, washed with 2N hydrochloric acid and water and dried over anhydrous magnesium sulfate. The solvent was then distilled off. To the thus-obtained N-cynnamoyl-L-aspartic acid β-methyl ester were added acetic anhydride (15 ml), triethylamine (15 ml) and 4-dimethylaminopyridine (0.2 g) and the mixture was stirred for 30 minutes, poured into water, stirred for 10 minutes for decomposition and extracted with ethyl acetate. The ethyl acetate layer was washed with diluted hydrochloric acid, water, aqueous sodium hydrogen carbonate and water, and dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was treated with isopropyl ether to give methyl 3-cinnamoylamino- 4-oxovalerate as crystals; yield 2.65 g (48.1%). Recrystallization from ethyl ether gave colorless needles melting at 82°-83° C.

reactant | Ethyl chlorocarbonate | 2.0 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | cinnamic acid | 2.96 g | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
reactant | dichloromethane | 60 ml | ClCCl | CH2Cl2
reactant | L-Aspartic acid β-methyl ester hydrochloride | 3.67 g | COC(=O)C[C@@H](C(=O)O)N.Cl
solvent | triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
product | methyl 3-cinnamoylamino- 4-oxovalerate | C(C=CC1=CC=CC=C1)(=O)NC(CC(=O)OC)C(C)=O | C15H17NO4
